US05013477
3.28 g of methyltriphenylphosphonium bromide were suspended in 40 ml of tert.butyl methyl ether while gassing with argon. The suspension was treated at room temperature within 1 minute with 962 mg of potassium tert.butylate and stirred for 1 hour. The mixture was subsequently cooled to 0° C., treated dropwise within 3 minutes with a solution of 1.5 g of 4-[trans-4-(trans-4-cyanocyclohexyl)cyclohexyl]butyraldehyde in 20 ml of tert.butyl methyl ether and stirred at 0° C. for a further 45 minutes. Thereafter, the reaction mixture was diluted with 80 ml of water and extracted three times with 100 ml of petroleum ether each time. The organic phases were washed twice with 100 ml of water each time, dried over magnesium sulfate, filtered and concentrated. Chromatographic purification of the crude product (2.1 g) on silica gel at 0.5 bar with ethyl acetate/petroleum ether (vol. 2:98) and recrystallization from 20 ml of methanol gave 1.26 g of trans-4-[trans-4-(4-pentenyl)cyclohexyl]cyclohexanecarbonitrile as colorless crystals with m.p. (C-SB) 20.1° C., SB -N 36.9° C., cl.p. (N-I) 54.8° C.

reactant | 4-[trans-4-(trans-4-cyanocyclohexyl)cyclohexyl]butyraldehyde | 1.5 g | C(#N)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCCC=O | C17H27NO
reactant | tert.butyl methyl ether | 40 ml | COC(C)(C)C | C5H12O
reactant | tert.butyl methyl ether | 20 ml | COC(C)(C)C | C5H12O
catalyst | methyltriphenylphosphonium bromide | 3.28 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 80 ml | O | H2O
product | trans-4-[trans-4-(4-pentenyl)cyclohexyl]cyclohexanecarbonitrile | 1.26 g | C(CCC=C)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C#N | C18H29N
